US04473085
Preparation And Pyrolysis Of Ethyl 2-Propyl-3-hydroxy-3-phenylpropionate
A 100 milligram sample of the prepared hydroxy-ester is pyrolyzed in a sealed tube at 240°-245° C. for 1 hour. Examination of the pyrolyzate by liquid chromatography indicates that it consists of 60% of unreacted hydroxy-ester and 40% of a 1:1 mixture of ethyl valerate and benzaldehyde.

reactant | ethyl valerate | C(CCCC)(=O)OCC | C7H14O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | Ethyl 2-Propyl-3-hydroxy-3-phenylpropionate | C(CC)C(C(=O)OCC)C(C1=CC=CC=C1)O | C14H20O3
